US04855292
To a solution of 3-amino-1-benzyl-4-methylpyrrolidine (9.5 g) in methanol (190 ml) is added anhydrous t-butoxycarboxylic acid (13.0 g) at room temperature, and the mixture is stirred for one hour. Methanol is distilled off under reduced pressure, and to the resulting residue is added water. The mixture is extracted with dichloromethane, and the extract is dried over magnesium sulfate and then dichloromethane is distilled off. The residue is purified by silica gel column chromatography (solvent, dichloromethane:methanol=19:1) to give 3-(t-butoxycarbonylamino)-1-benzyl-4-methylpyrrolidine (isomer A) (4.4 g), as colorless prisms, m.p. 131.5°-132.7° C.

reactant | 3-amino-1-benzyl-4-methylpyrrolidine | 9.5 g | NC1CN(CC1C)CC1=CC=CC=C1 | C12H18N2
reactant | t-butoxycarboxylic acid | 13.0 g | C(C)(C)(C)OC(=O)O | C5H10O3
solvent | methanol | 190 ml | CO | CH4O
product | 3-(t-butoxycarbonylamino)-1-benzyl-4-methylpyrrolidine | C(C)(C)(C)OC(=O)NC1CN(CC1C)CC1=CC=CC=C1 | C17H26N2O2
